US07157464B2
Synthesis of 2-[4-Chloro-3-(5-chloro-thiophen-2-yl)-pyrazol-1-yl]-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone
Protocol T was followed using 4-Chloro-3-(5-chloro-thiophen-2-yl)-1H-pyrazole, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=2/3) afforded the title compound as yellow solid. 1H NMR (400 MHz, CDCl3): 7.58 (s, 1H), 7.38–7.42 (d, 1H), 6.94–7.1 (m, 2H), 6.84–6.88 (dd, 2H), 4.96 (s, 2H), 3.62–3.81 (m, 4H), 3.02–3.14 (m, 4H). 13C NMR (400 MHz, CDCl3): 165, 158.8, 156.8, 142.4, 131, 126.8, 124.8, 119, 116, 115.6, 54, 52, 51.6, 46, 42.6.

reactant | 4-Chloro-3-(5-chloro-thiophen-2-yl)-1H-pyrazole | ClC=1C(=NNC1)C=1SC(=CC1)Cl | C7H4Cl2N2S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-[4-Chloro-3-(5-chloro-thiophen-2-yl)-pyrazol-1-yl]-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClC=1C(=NN(C1)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F)C=1SC(=CC1)Cl | C19H17Cl2FN4OS
